US05665717
1d) (3S,4S)-4-Formyl-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one
Periodic acid (18.7 g, 45.6mmol) was added to a suspension of (3S,4S)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one (15.1 g, 36.8mmol) in tetrahydrofuran (210 ml) and water (210 ml). The reaction mixture was heated under reflux for 1.5 h and then cooled in ice. The precipitated product was collected by filtration, washed with water and dried over phosphorus pentoxide to yield the title compound as a mixture of aldehyde and the corresponding hydrate (10.18 g, 82%); νmax (KBr) 1713, 1638, 1552 and 1514cm-1 ; aldehyde δH (d6 -DMSO) 3.43 and 3.50 (2H, ABq, J 14.4 Hz), 3.73 (3H, s), 4.95 (1H, dd, J 6.1, 1.2 Hz), 5.19 (1H, m), 6.95 (2H, d, J 9.0 Hz), 7.18-7.35 (7H, m), 9.09 (1H, d, J 7.3 Hz) and 9.52 (1H, d, J 1.2 Hz); hydrate δH (d6 -DMSO) 3.50 (2H, s), 3.72 (3H, s), 4.16 (1H, t, J 5.6 Hz), 5.07 (1H, q, J 5.8 Hz), 5.29 (1H, dd, J 9.4, 5.6 Hz), 6.28 (2H, t, J 6.7 Hz, exch.), 6.9 (2H, d, J 9.1 Hz), 7.19-7.35 (5H, m), 7.52 (2H, J 9.1 Hz) and 8.52 (1H, d, J 9.4 Hz); m/z (EI) 338 (10); (CI, +ve ion, ammonia) 339 (MH+), 356 (MNH3+).

reactant | Periodic acid | 45.6mmol, 18.7 g | I(=O)(=O)(=O)O | HIO4
reactant | (3S,4S)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one | 36.8mmol, 15.1 g | CC1(OC[C@H](O1)[C@@H]1[C@@H](C(N1C1=CC=C(C=C1)OC)=O)NC(CC1=CC=CC=C1)=O)C | C23H26N2O5
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | water | 210 ml | O | H2O
product | (3S,4S)-4-Formyl-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one | C(=O)[C@@H]1[C@@H](C(N1C1=CC=C(C=C1)OC)=O)NC(CC1=CC=CC=C1)=O | C19H18N2O4
